US06518423B1
(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetamidine hydrochloride
(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-yl) acetamidine was dissolved in a small amount of methanol and a solution of hydrogen chloride in ethyl acetate was added thereto under ultrasonication. Thus, the title compound was obtained almost quantitatively as the precipitated orange crystals.

reactant | (10H-Pyrazino[2,3-b][1,4]benzothiazin-8-yl) acetamidine | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CC(=N)N | C12H11N5S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (10H-Pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetamidine hydrochloride | Cl.N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CC(=N)N | InChI=1S/C12H11N5S.ClH/c13-10(14)6-7-1-2-9-8(5-7)17-11-12(18-9)16-4-3-15-11;/h1-5H,6H2,(H3,13,14)(H,15,17);1H
